US05023272
3-Diethylamino-2,2-dimethylpropyl 5-(p-Fluorophenyl)-2-furoate Hydrochloride
5-(p-Fluorophenyl)-2-furoic acid (18.6 g., 0.09 mole) is added with rapid stirring to thionyl chloride (31.5 ml.) at room temperature, heated until solution occurs (about 1/4 hr.) and then is refluxed for 2 hr. The mixture is stripped of excess thionyl chloride in vacuo, benzene (100 ml.) is added, and again stripped of solvent. The residue is treated with a solution of 3-diethylamino-2,2-dimethylpropanol (14.5 g. 0.09 mole) in benzene (490 ml.), is refluxed for 3 hr., cooled, is diluted with petroleum ether (300 ml.), and is stored for 2 days at room temperature. The benzene- petroleum ether solution is decanted, the residue dissolved in H2O (750 ml.) and the solution adjusted to pH 8 with saturated aqueous Na2CO3 (75 ml.). The product is extracted from the aqueous phase with benzene (860 ml.) in portions and the extract dried for 18 hours over MgSO4 and activated charcoal. The solution is filtered and the filtrate adjusted to pH 3 with ether-HCl (cooled in ice bath). Petroleum ether (400 ml.) is added and the product oiled out of solution. The benzene-petroleum ether solution is decanted and the product washed twice with anhydrous ether (scratching induced crystallization). The solid is recrystallized from isopropanol (200 ml.) to yield 16.9 g. (49%). A sample is recrystallized from isopropanol, m.p. 134°-138°.

reactant | 5-(p-Fluorophenyl)-2-furoic acid | 0.09 mole, 18.6 g | FC1=CC=C(C=C1)C1=CC=C(O1)C(=O)O | C11H7FO3
reactant | thionyl chloride | 31.5 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 3-diethylamino-2,2-dimethylpropanol | 0.09 mole, 14.5 g | C(C)N(CC(CO)(C)C)CC | C9H21NO
solvent | benzene | 490 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | 3-Diethylamino-2,2-dimethylpropyl 5-(p-Fluorophenyl)-2-furoate Hydrochloride | Cl.FC1=CC=C(C=C1)C1=CC=C(O1)C(=O)OCC(CN(CC)CC)(C)C | InChI=1S/C20H26FNO3.ClH/c1-5-22(6-2)13-20(3,4)14-24-19(23)18-12-11-17(25-18)15-7-9-16(21)10-8-15;/h7-12H,5-6,13-14H2,1-4H3;1H
